US06277861B1
(±) 5-Amino-1,2-dimethyl-1,2,3,4-tetrahydroisoquinoline
To an ice cold solution of 5-amino-1,2-dihydro-1,2-dimethyl isoquinoline (4 g, 23.2 mmol) in methanol (80 ml) was added sodium borohydride (3.51 g, 92.8 mmol) portionwise. The mixture was allowed to stir at room temperature overnight before concentration in vacuo; the residue was then partitioned between water and dichloromethane. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford a light brown oil (4.023 g).

reactant | 5-amino-1,2-dihydro-1,2-dimethyl isoquinoline | 23.2 mmol, 4 g | NC1=C2C=CN(C(C2=CC=C1)C)C | C11H14N2
reactant | sodium borohydride | 92.8 mmol, 3.51 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | (±) 5-Amino-1,2-dimethyl-1,2,3,4-tetrahydroisoquinoline | 4.023 g | NC1=C2CCN(C(C2=CC=C1)C)C | C11H16N2
